US05449686
26d. 2-Aminocarbonyl-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)cyclohexan-1-one
A solution of 2-aminocarbonyl-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene (0.22 g, 0.57 mmol) in 50% aqueous acetic acid (12 mL, containing 9 drops concentrated sulfuric acid per 30 mL) was heated at 75° C. under an argon atmosphere for 2 h. The mixture was cooled, was partitioned between methylene chloride and water, was extracted twice, the organic layer was dried (potassium carbonate)and the solvent was removed in vacuo. Purification by flash chromatography, eluting with 5% methanol/chloroform, followed by crystallization from ether/methylene chloride, provided a white powder (0.07 g, 51%): m.p. 154°-155° C.

reactant | 2-aminocarbonyl-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)-1-(methoxymethyloxy)cyclohex-1-ene | 0.57 mmol, 0.22 g | NC(=O)C1=C(CCC(C1)(C1=CC(=C(C=C1)OC)OCC1CC1)C#N)OCOC | C21H26N2O5
catalyst | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 2-Aminocarbonyl-4-cyano-4-(3-cyclopropylmethoxy-4-methoxyphenyl)cyclohexan-1-one | 0.07 g, 51% | NC(=O)C1C(CCC(C1)(C1=CC(=C(C=C1)OC)OCC1CC1)C#N)=O | C19H22N2O4
